US07790724B2
d) 4-Cyano-1H-imidazole-2-carboxylic acid (4-carbamoyl-2-cyclohex-1-enyl-phenyl)-amide
To a solution of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (4-carbamoyl-2-cyclohex-1-enyl-phenyl)-amide (as prepared in the previous step, 200 mg, 0.430 mmol) in 6 mL of DCM was added 2 mL of TFA. After stirring at RT for 3 h, the mixture was treated with 20 mL of n-propanol and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (4-6% MeOH/DCM) to afford 88.0 mg (61%) of the title compound as a white solid. 1H-NMR (CD3OD; 400 MHz): δ 8.41 (d, 1H, J=8.6 Hz), 8.03 (s, 1H), 7.81 (dd, 1H, J=8.6, 2.3 Hz), 7.74 (d, 1H, J=2.3 Hz), 5.89 (m, 1H), 2.20-2.38 (m, 4H), 1.71-1.95 (m, 4H). Mass spectrum (ESI, m/z): Calcd. for C18H17N5O2, 336.1 (M+H), found 336.1.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid (4-carbamoyl-2-cyclohex-1-enyl-phenyl)-amide | C(N)(=O)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C24H31N5O3Si
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | n-propanol | 20 mL | C(CC)O | C3H8O
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1H-imidazole-2-carboxylic acid (4-carbamoyl-2-cyclohex-1-enyl-phenyl)-amide | 88.0 mg, 61% | C(N)(=O)C1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCCCC1 | C18H17N5O2
